datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27])([H:9])[H:10],12.0918
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21],37.656
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22][C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22](=[C:21]([H:24])[H:25])[C:23]([H:26])([H:27])[H:28])[H:12])[H:11],10.1671
[C:0](#[C:1][H:3])[H:2].[C:4]([H:5])[H:6]>>[C:0](#[C:1][H:3])[C:4]([H:2])([H:5])[H:6],-6.907784
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:6])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16])([H:4])[H:5],48.9528
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])([H:13])[H:14])[C:6]([O:7][O:8][H:12])([H:18])[H:19])([H:9])([H:10])[H:11],113.3864
[C:0]([C:1]([O:2][O:3][H:11])([C:4]([O:5][H:13])([O:6][O:7][H:14])[H:12])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:4]([O:5][H:13])([O:6][O:7][H:14])[H:12])[H:10])([H:8])[H:9].[O:2][O:3][H:11],63.1784
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[Cl:15]>>[C:0]([c:1]1[c:2][c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:10][Cl:15],-22.7467
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])([C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]([C:15]([C:16]([H:21])([H:22])[H:23])([C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19],33.0536
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]=[S:8])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[C:5]([H:9])[H:10])[H:11])=[S:8],82.8432
[C:0]([C:1]=[C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2][c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])([H:9])([H:10])[H:11],196.45972
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17])[H:5],53.2205
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:12])[H:4].[C:7](=[C:8][C:9]([H:13])([H:14])[H:15])([H:10])[H:11],36.8192
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([H:12])[H:13])([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:10])[H:5].[C:8](=[C:9]([H:12])[H:13])[H:11],116.315
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([S:15][H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:16])([H:17])[H:18])([S:15][H:20])[H:19],-3.3472
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11],71.6719
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:11],79.8307
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([C:13]([O:14][O:15])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:15][O:14][C:13]([C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:21])[H:22])([H:23])[H:24],39.748
